US06911458B2
N-(2-{(2R)-3-[1-(4-Chloro-benzyl)-piperidin-4-ylamino]-2-hydroxy-2-methylpropoxy}-phenyl)-acetamide
1-(4-chlorobenzyl)-4-piperidinamine (62 mg, 0.276 mmol) and N-(2-{[(2R)-2-methyloxiranyl]methoxy}phenyl)acetamide (61 mg, 0.276 mmol) in ethanol (1.5 ml) was stirred in a sealed vial at 80° C. for 4 hours. The reaction mixture was diluted with water and purified by reversed phase HPLC to give 130 mg (70%) of the title compound as a ditrifluoroacetate after lyophilisation. The optical purity was determined to 86% ee, by chiral HPLC on a Chiralpak AD-column.

reactant | 1-(4-chlorobenzyl)-4-piperidinamine | 0.276 mmol, 62 mg | ClC1=CC=C(CN2CCC(CC2)N)C=C1 | C12H17ClN2
reactant | N-(2-{[(2R)-2-methyloxiranyl]methoxy}phenyl)acetamide | 0.276 mmol, 61 mg | C[C@]1(OC1)COC1=C(C=CC=C1)NC(C)=O | C12H15NO3
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-(2-{(2R)-3-[1-(4-Chloro-benzyl)-piperidin-4-ylamino]-2-hydroxy-2-methylpropoxy}-phenyl)-acetamide | 130 mg, 70% | ClC1=CC=C(CN2CCC(CC2)NC[C@@](COC2=C(C=CC=C2)NC(C)=O)(C)O)C=C1 | C24H32ClN3O3
